US08034812B2
Production of N-[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]isonicotinamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (150 mg, 0.365 mmol), pyridine-4-carboxylic acid (54 mg, 0.438 mmol), oxalyl chloride (63 μL, 0.734 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3 mL) and N-methylpyrrolidone (3 mL) as starting materials and in the same manner as in Example 412, the title compound (111 mg, 59%) was obtained as a pale-green powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 0.365 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C23H18N6O2
reactant | pyridine-4-carboxylic acid | 0.438 mmol, 54 mg | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | oxalyl chloride | 0.734 mmol, 63 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]isonicotinamide | 111 mg, 59% | C(#N)C1(CC1)C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(C4=CC=NC=C4)=O)C=CC2)C=CC1 | C29H21N7O3
